US06054141
6- Butyloct-7-en-1-ol (800 mg, 4.34 mmol) was converted to the acetate in a standard procedure with acetic anhydride, pyridine and 4-dimethylaminopyridine (DMAP). Subsequent purification by PMLPC yielded 914 mg (93%) of 6-butyloct-7-en-1-yl acetate.

reactant | 6- Butyloct-7-en-1-ol | 4.34 mmol, 800 mg | C(CCC)C(CCCCCO)C=C | C12H24O
reactant | acetate | C(C)(=O)[O-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-butyloct-7-en-1-yl acetate | 914 mg, 93% | C(C)(=O)OCCCCCC(C=C)CCCC | C14H26O2
